US05958918
A. Ethenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3(S)-yl]amide
The title compound is prepared from 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride as in EXAMPLE 24, Part B using 2-chloroethanesulfonyl chloride in place of 6-methoxynaphthalene-2-sulfonyl chloride. The crude product is purified by column chromatography in a gradient of 10% EtOAc/CH2Cl2 to 40% EtOAc/CH2Cl2 to afford the title compound as a solid.

reactant | 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride | Cl.N[C@@H]1C(N(CC1)CC=1C=C(C#N)C=CC1)=O
reactant | 2-chloroethanesulfonyl chloride | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
product | Ethenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3(S)-yl]amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=C)=O)C=CC1 | C14H15N3O3S
